US07018988B2
(2S,4EZ)-N-(3,4-dimethoxybenzyl)-1-(diphenylacetyl)-4-(methoxyimino)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, diphenylacetyl chloride, and 3,4-dimethoxybenzylamine the title compound was obtained in 74% purity by LC/MS. MS(ESI+): m/z=502.6.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | 3,4-dimethoxybenzylamine | COC=1C=C(CN)C=CC1OC | C9H13NO2
product | (2S,4EZ)-N-(3,4-dimethoxybenzyl)-1-(diphenylacetyl)-4-(methoxyimino)-2-pyrrolidinecarboxamide | COC=1C=C(CNC(=O)[C@H]2N(CC(C2)=NOC)C(C(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=CC1OC | C29H31N3O5
